US09145392B2
(E)-5-(2-Cyclopropylvinyl)-6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine (“85”)
The title compound was prepared in an analogous manner as 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(4-fluorophenyl)pyrimidin-4-amine using (E)-2-(2-cyclopropylvinyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane instead of 4-fluorophenyl boronic acid. LC-MS: (M+1=544, obsd.=544).

reactant | 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(4-fluorophenyl)pyrimidin-4-amine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=C(C=C1)F)C | C29H30F5N7
reactant | (E)-2-(2-cyclopropylvinyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(CC1)/C=C/B1OC(C(O1)(C)C)(C)C | C11H19BO2
product | (E)-5-(2-Cyclopropylvinyl)-6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-4-amine | C1(CC1)/C=C/C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C)N | C28H33F4N7
